US04937343
Preparation of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-5-fluoro-1,2-benzisothiazol-3(2H)one 1,1-dioxide
0.02 mol of 5-fluoro-2-(4-bromobutyl)-1,2-benzisothiazol-3(2H)one 1,1-dioxide and 0.02 mol of 1-(2-pyrimidinyl)piperazine are stirred with 0.02 mol of K2CO3 in 150 ml of absolute DMF at 100° C. for 1 hour. The mixture is then evaporated. Water is added and the organic substance is taken up in methylene chloride. The dried CH2Cl2 phase is applied to a silica gel column and eluted with CH2Cl2 /CH3OH (95:5).

reactant | 5-fluoro-2-(4-bromobutyl)-1,2-benzisothiazol-3(2H)one 1,1-dioxide | 0.02 mol | FC=1C=CC2=C(C(N(S2(=O)=O)CCCCBr)=O)C1 | C11H11BrFNO3S
reactant | 1-(2-pyrimidinyl)piperazine | 0.02 mol | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | K2CO3 | 0.02 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-5-fluoro-1,2-benzisothiazol-3(2H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=C(C=C2)F)(=O)=O | C19H22FN5O3S
